US09403810B2
Step 2: Methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-oxobutanoate
To a solution of methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoate (1.5 g, 4.22 mmol) in DCM (25 mL) was added portionwise Dess-Martin periodinane (1.790 g, 4.22 mmol). The reaction mixture was stirred at room temperature overnight. The resulting mixture was diluted with DCM and a 1:1 2M sodium carbonate (aq) and saturated sodium sulphite solution (aq) were added and stirred at room temperature for 15 minutes. The layers were separated and the organic layer dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound;

reactant | methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoate | 4.22 mmol, 1.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)OC)C(C)O | C20H21NO5
reactant | Dess-Martin periodinane | 4.22 mmol, 1.790 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-oxobutanoate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)OC)C(C)=O | C20H19NO5
